### PR TITLE
[Merged by Bors] - feat(Topology): codiscreteWithin = ⊥ iff IsDiscrete

### PR DESCRIPTION
**Pull request by wwylele**
AI usage disclosure: Aristotle was used to draft the initial version, and then manually golfed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/DiscreteSubset.lean [hunk 1]
```diff
@@ -365,6 +365,11 @@ lemma mem_codiscrete_subtype_iff_mem_codiscreteWithin {S : Set X} {U : Set S} :
     U ∈ codiscrete S ↔ (↑) '' U ∈ codiscreteWithin S := by
   simp [← Topology.IsEmbedding.subtypeVal.image_mem_codiscreteWithin_range]
 
+@[simp]
+theorem codiscreteWithin_eq_bot_iff {S : Set X} : codiscreteWithin S = ⊥ ↔ IsDiscrete S := by
+  simp [isDiscrete_iff_nhdsNE, codiscreteWithin, nhdsWithin, Set.diff_eq, inf_principal_eq_bot,
+    Set.compl_inter, mem_inf_principal, Set.insert_def, or_iff_not_imp_left]
```
Comment (b-mehta) [inline Mathlib/Topology/DiscreteSubset.lean]:
```suggestion
  simp [isDiscrete_iff_nhdsNE, codiscreteWithin, ← nhdsWithin_inter', Set.diff_eq, inter_comm]
```
a more direct proof - you don't need to unfold `nhdsWithin`

**Review by b-mehta — COMMENTED** [review]
bors d+
